US04859790
1.5 mol (280 g) of 4,4'-dihydroxybiphenyl is dissolved in 1,263 g of diethylene glycol dimethyl ether and, after adding catalytic amounts of sodium hydroxide, oxethylated with ethylene oxide in the manner described in Example 2.1 at 170° C. to obtain 4,4'-bis(2-hydroxyethoxy)biphenyl. After subjecting the reaction mixture to an analogous working up step, the diol is obtained, mp 201°-202° C. (from tetrahydrofuran/cyclohexanone). The 1H NMR spectrum confirms the constitution of the diol.

reactant | 4,4'-dihydroxybiphenyl | 1.5 mol, 280 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | diethylene glycol dimethyl ether | 1,263 g | COCCOCCOC | C6H14O3
product | 4,4'-bis(2-hydroxyethoxy)biphenyl | OCCOC1=CC=C(C=C1)C1=CC=C(C=C1)OCCO | C16H18O4
